US06545017B1
A solution of N-[4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]acetamide (˜2.1 g) in 6 N hydrochloric acid (30 mL) was sealed in a flask and then heated at 100° C. for about 30 hours. The reaction mixture was allowed to cool to ambient temperature and then filtered to remove any particulates. The filtrate was made basic (pH 14) with 25% sodium hydroxide and then extracted with chloroform (×2). The aqueous layer was combined with sodium chloride (20 g) and then extracted with chloroform (×3). The organics were combined, washed with brine, dried over sodium sulfate and then concentrated under reduced pressure to provide 1.44 g of 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine.

reactant | N-[4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]acetamide | ˜2.1 g | NC1=NC(=C(C2=C1N=CN2CCCCNC(C)=O)C)C | C14H21N5O
solvent | hydrochloric acid | 6 N, 30 mL | Cl | ClH
product | 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.44 g | NCCCCN1C=NC=2C(=NC(=C(C21)C)C)N | C12H19N5
